US05438052
5-(3,4-Dimethoxyphenyl)-2-phenyl-6(1H)-pyrimidinone (7.4 g) are stirred in 250 ml of 48% aqueous hydrobromic acid at 100° C. for 24 hours and at 140° C. for 24 hours. After cooling the yellow crystals obtained are filtered off, washed with water and suspended in 200 ml of water. Sodium hydrogen carbonate is added thereto until pH 7.5 has been reached. After stirring for 2 hours the product is filtered off, washed with water and dried in a vacuum at room temperature over potassium hydroxide. There are obtained 6 g of 5-(3,4-dihydroxyphenyl)-2-phenyl-4(3H)-pyrimidinone hydrobromide as a yellow powder of m.p.>250° C.

reactant | 5-(3,4-Dimethoxyphenyl)-2-phenyl-6(1H)-pyrimidinone | 7.4 g | COC=1C=C(C=CC1OC)C1=CN=C(NC1=O)C1=CC=CC=C1 | C18H16N2O3
reactant | hydrobromic acid | 250 ml | Br | BrH
product | 5-(3,4-dihydroxyphenyl)-2-phenyl-4(3H)-pyrimidinone hydrobromide | 6 g | Br.OC=1C=C(C=CC1O)C=1C(NC(=NC1)C1=CC=CC=C1)=O | InChI=1S/C16H12N2O3.BrH/c19-13-7-6-11(8-14(13)20)12-9-17-15(18-16(12)21)10-4-2-1-3-5-10;/h1-9,19-20H,(H,17,18,21);1H
